US07781478B2
To a mixture of cyclopropyl(3-methoxyphenyl)amine (1.52 g, 9.3 mmol), KOH (1.57 g dissolved in 8 mL H2O) and EtOAc (15 mL) at 0° C. was added dropwise, with vigorous stirring, chloroacetyl chloride (1.12 mL, 14.0 mmol). The mixture was stirred for additional 30 minutes, washed with water (3×350 mL), concentrated and purified on silica gel (CH2Cl2/hexane, 1:1) to provide 2-chloro-N-cyclopropyl-N-(3-methoxy-phenyl)acetamide as a solid (1.80 g, 81%).

reactant | cyclopropyl(3-methoxyphenyl)amine | 9.3 mmol, 1.52 g | C1(CC1)NC1=CC(=CC=C1)OC | C10H13NO
reactant | KOH | 8 mL, 1.57 g | [OH-].[K+]
reactant | chloroacetyl chloride | 14.0 mmol, 1.12 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-N-cyclopropyl-N-(3-methoxy-phenyl)acetamide | 1.80 g, 81% | ClCC(=O)N(C1=CC(=CC=C1)OC)C1CC1 | C12H14ClNO2
